US05495024
(2R,3R)-2-(2,4-Difluorophenyl)-1-(1-imidazolyl)-3-(1-pyrazolyl)-2-butanol (Compound 1)
In dimethylformamide (2 ml) was dispersed 60% sodium hydride in oil (52 mg). Imidazole (89 mg) was added to the dispersion under ice-cooling and the mixture was stirred for 15 minutes at room temperature. To the mixture was added a solution of (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(1H-pyrazol-1-yl)ethyl]oxirane (166 mg) in dimethylformamide (1 ml). The mixture was heated for 5 hours at 50° C. and cooled. To the reaction mixture were added cold water (5 ml) and ethyl acetate (30 ml). The separated aqueous layer was extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with water and saturated saline, dried over magnesium sulfate and distilled under reduced pressure. The residue was allowed to stand to crystallize. The obtained crystals were recrystallized from ethyl acetate-hexane to form the title compound (Compound 1, 193 mg) as colorless prisms.

reactant | sodium hydride | [H-].[Na+]
reactant | Imidazole | 89 mg | N1C=NC=C1 | C3H4N2
reactant | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(1H-pyrazol-1-yl)ethyl]oxirane | 166 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1N=CC=C1 | C13H12F2N2O
reactant | water | 5 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-Difluorophenyl)-1-(1-imidazolyl)-3-(1-pyrazolyl)-2-butanol | 193 mg | FC1=C(C=CC(=C1)F)[C@@](CN1C=NC=C1)([C@@H](C)N1N=CC=C1)O | C16H16F2N4O
